US09399623B2
6-Chloro-2-(3-pyrrolidinyl-pyrrolidin-1-yl)-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxy-3-methyl-cyclohexylmethyl)-amide (121)
The title compound was synthesized according to the procedure described in example 1 using 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxy-3-methyl-cyclohexylmethyl)-amide, DIPEA and 3-pyrrolidin-yl-pyrrolidine dihydrochloride. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.75 (1H), 7.85 (m, 1H), 7.58 (2H), 7.05 (1H), 5.43-5.56 (1H), 4.66 (s, 1H), 3.89 (m, 2H), 3.70 (m, 1H), 3.55 (m, 1H), 3.26 (m, 2H), 2.24 (m, 2H), 2.06 (m, 4H), 1.85 (m, 2H), 1.74-1.56 (m, 3H), 1.27-1.32 (m, 1H), 1.00 (d, 3H). m/z: 508 [M+H]

reactant | 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxy-3-methyl-cyclohexylmethyl)-amide | FC1(C(CC(CC1)(O)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl)C)F | C18H18Cl2F2N2O2
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-pyrrolidin-yl-pyrrolidine dihydrochloride | Cl.Cl.N1(CCCC1)C1CNCC1
product | 6-Chloro-2-(3-pyrrolidinyl-pyrrolidin-1-yl)-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxy-3-methyl-cyclohexylmethyl)-amide | FC1(C(CC(CC1)(O)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)N1CC(CC1)N1CCCC1)C)F | C26H33ClF2N4O2
